US04965270
2-Amino-9-(2,3-dihydroxyprop-1-oxy)purine
A mixture of 2-amino-6-chloro-9-(2,3-dihydroxyprop-1-oxy)purine (150 mg, 0.58 mmol), ammonium formate (146 mg, 2.32 mmol) and 10% palladium-on-charcoal (15 mg) in methanol (5 ml) was stirred under reflux for 4 hours. The reaction was evaporated under reduced pressure and the residue was dissolved in water and passed through a SEP-PAK C18 cartridge for decolourisation. After elution with water, the water was evaporated under reduced pressure and the residue recrystallised from ethanol affording the title compound (58 mg, 45%), m.p. 183°-185° C. UV: λmax (H2O) 221 (ε25,600), 305 (ε7,000) nm; IR: υmax (KBr) 3670, 3420, 3310, 3200, 1650, 1620, 1570, 1520, 1480, 1425 cm-1 ; 1H NMR: δH (CD3)2SO] 3.41 (2H, m, CH2OH), 3.76 (1H, m, CHOH), 4.18 (1H, dd, J=7.6, 10.7 Hz, CH2ON), 4.39 (1H, dd, J=3.2, 10.7 Hz, CH2ON), 4.72 (1H, t, J=5.6 Hz, OH), 5.15 (1H, d, J=5.2 Hz, OH), 6.72 (2H, br.s, NH2), 8.27 (1H, s, H-8), 8.59 (1H, s, H-6). Found: C, 42.17; H, 4.91; N, 31.07%, M+ 225.0865. C8H11N5O3 requires C, 42.67; H, 4.92; N, 31.10%, M+ 225.0862.

reactant | 2-amino-6-chloro-9-(2,3-dihydroxyprop-1-oxy)purine | 0.58 mmol, 150 mg | NC1=NC(=C2N=CN(C2=N1)OCC(CO)O)Cl | C8H10ClN5O3
reactant | ammonium formate | 2.32 mmol, 146 mg | C(=O)[O-].[NH4+]
solvent | methanol | 5 ml | CO | CH4O
catalyst | palladium-on-charcoal | 15 mg | [Pd] | Pd
product | 2-Amino-9-(2,3-dihydroxyprop-1-oxy)purine | NC1=NC=C2N=CN(C2=N1)OCC(CO)O | C8H11N5O3
